data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1C2C3CC4=C5C2(CCN3CC6CCC6)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.COC1=C2C3=C(CC4C5C3(CCN4CC6CCC6)C(O2)C([CH:22]=[CH:21]5)(OC)OC)C=C1.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
CC[CH:10](C)[O:11]S(=O)(=O)C>>CC[CH+:10]C.CS(=O)(=O)[O-:11] 10,11=11
C[Si](C)(C)C[CH2:11][O:10][CH:20]=[O+:21][Si](C)(C)C>>C[Si](C)(C)C[CH2+:11].C[Si](C)(C)[O:21][CH:20]=[O:10] 10,11=10,20;20,21=21
[H:20][OH+:21]C1(CCCC1)C(C)C.[OH2:10]>>[H:20][OH2+:10].CC(C)C1(CCCC1)[OH:21] 10=20;20,21=21
C1CCC(CC1)[P:10](C2CCCCC2)C3CCCCC3.C1C[N+:21]2(CC[N+]1(CC2)CCl)[F:20].[B-](F)(F)(F)F.O>>C1CCC(CC1)[P+:10](C2CCCCC2)(C3CCCCC3)[F:20].C1C[N+]2(CC[N:21]1CC2)CCl.[B-](F)(F)(F)F.O 10=20;20,21=21
[H:20][OH2+:21].CC(=[O:10])C>>[H:20][O+:10]=C(C)C.[OH2:21] 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)C(F)(F)F.O[S+:20](=O)=O>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[S:20](=O)(=O)O)C(F)(F)F 10,11=10,20
C1CC2(CC[C:20]1=[O:21])OCCO2.C1COCC[NH:10]1.CC1=CC=C(C=C1)S(=O)(=O)O>>C1CC2(CC[C:20]1([NH+:10]3CCOCC3)[O-:21])OCCO2.CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
[H:20][C:21]1(C=C(C=C[C+:22]1OCC)Br)Br.[Br-:10]>>[H:20][Br:10].CCO[C:22]1=[C:21](C=C(C=C1)Br)Br 10=20;20,21=21,22
[H:20][C:21]12[CH:22]=[O+:23]C3=C1C(CCC3)CCC2=O.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>[H:20][OH2+:10].C1CC2CCC(=O)[C:21]3=[CH:22][O:23]C(=C23)C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
[CH2:10]=[CH:11][OH:12].[Br:20][Br:21]>>[CH2:10]([CH:11]=[OH+:12])[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C12CCC(C13CCC4C3=C(CC2)C(C4)OCOC)OS(=O)(=O)C.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.COCOC1CC2CCC34C2=C1CCC3(CCC4OS(=O)(=O)C)[O-:21] 10=20;20,21=21
[H:10][C:11]1(CCCCC1C2=CC=CC=C2)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCCCC1C2=CC=CC=C2.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](C1C(C(C(C(O1)COC(=O)C)OC(=O)C)OC(=O)C)OC(=O)C)C2=CC=CC=C2.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OCC1C(C(C(C(O1)[O:21]C2=CC=CC=C2)OC(=O)C)OC(=O)C)OC(=O)C 10=20;20,21=21
CC[S+](C1=CC=CC=C1)O[C:20](C(F)(F)F)([O-:10])[O:21]C(=O)C(F)(F)F>>CC[S+](C1=CC=CC=C1)O[C:20](=[O:10])C(F)(F)F.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
CCO[C:11]1=[CH:10]C=CC=C1.C[CH+:20]C>>CCO[C+:11]1C=CC=C[CH:10]1[CH:20](C)C 10,11=10,20
[H:10][B-:11](OC(=O)C)(OC(=O)C)OC(=O)C.C1C[C:20](=[N+:21]2CCN(CC2)C3=CC=CC=C3)CCC1OC(=O)C4=CC=CC=C4.CC(=O)[O-].[Na+]>>[H:10][C:20]1(CCC(CC1)OC(=O)C2=CC=CC=C2)[N:21]3CCN(CC3)C4=CC=CC=C4.[B:11](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)[O-].[Na+] 10,11=10,20;20,21=21
CCCCC(C(=CC(=O)CCCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)[O-:10].CC[OH2+]>>CCCCC1C(=CC(=O)CCCC)[P:20]([O:10]1)(C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.CC[OH2+] 10=20,
CC1=C2C=CN=CC2=C(C3=C1N(C4=CC=C(C=C43)[CH:20]=[OH+:21])C)C.O[OH:10].OS(=O)(=O)[O-]>>CC1=C2C=CN=CC2=C(C3=C1N(C4=CC=C(C=C43)[CH:20]([OH:21])[OH+:10]O)C)C.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][S+:21](CCS)C(C)(C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)(O)[S:21]CCS 10=20;20,21=21
[H:20][O+:21]=C(C1=CC=C(C=C1)C=C)OC.[OH2:10].CO.OS(=O)(=O)[O-]>>[H:20][OH2+:10].COC(=[O:21])C1=CC=C(C=C1)C=C.CO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21]=C1CCN(CC1)C2=CC=C(C=C2)C#N.[OH2:10].C1CCOC1.C(CO)O.OS(=O)(=O)[O-]>>[H:20][OH2+:10].C1CN(CCC1=[O:21])C2=CC=C(C=C2)C#N.C1CCOC1.C(CO)O.OS(=O)(=O)[O-] 10=20;20,21=21
C(C=CC[O-:10])[O-].[AlH3:20]>>C(C=CC[O:10][AlH3-:20])[O-] 10=20,
[H:20][N+:21]1(CCN(CC1)C2=C(C=C3C(=C2)N(C=C(C3=O)C(=O)O)C4CC4)F)C(NNC(=O)C5=CC=C(C=C5)F)OCC.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCOC(NNC(=O)C1=CC=C(C=C1)F)[N:21]2CCN(CC2)C3=C(C=C4C(=C3)N(C=C(C4=O)C(=O)O)C5CC5)F 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1=CC(=CC=C1C(C(Cl)(Cl)Cl)[OH:10])Cl.C1=CC=C(C=C1)Cl>>[H:20][OH+:10]C(C1=CC=C(C=C1)Cl)C(Cl)(Cl)Cl.OS(=O)(=O)[O-:21].C1=CC=C(C=C1)Cl 10=20;20,21=21
CC(=O)CC[C:20](=[O:21])C.C1=CC(=C(C=C1)Br)[NH2:10].CC(=O)O>>CC(=O)CC[C:20](C)([NH2+:10]C1=C(C=CC=C1)Br)[O-:21].CC(=O)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC1=C(C(=O)N2CCC(C2=C1)([OH:10])OCCO)C#N>>[H:20][OH+:10]C1(CCN2C1=CC(=C(C2=O)C#N)C)OCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][N+:21]1=C(C2=C(C=CC=C2)NC(=O)C1CC3=CC=CC=C3)C.[OH-:10].CC[NH+](CC)CC>>[H:20][OH:10].CC1=[N:21]C(C(=O)NC2=C1C=CC=C2)CC3=CC=CC=C3.CC[NH+](CC)CC 10=20;20,21=21
C[NH:10][CH:20](N)[OH2+:21].[Cl-]>>C[NH+:10]=[CH:20]N.[OH2:21].[Cl-] 10=20;20,21=21
COC1=C(C=CC(=C1)CC(C(CO)[CH:20]([C:10]2=[CH:11][C:12](=[C:13](C=C2)[O-:14])OC)[OH:21])C(=O)O[Na])O>>CO[C:12]1=[CH:11][C:10](=[CH:20]C(CO)C(CC2=CC(=C(C=C2)O)OC)C(=O)O[Na])C=C[C:13]1=[O:14].[OH-:21] 10,11=10,20;20,21=21;12,13=11,12;14=13
CO[PH:10](OC)(OC)[Br:11]>>CO[PH+:10](OC)OC.[Br-:11] 10,11=11
CCCCCCC1CCC(C(=O)O1)O[P:11](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)[N:10]([C:20](=[OH+:21])OCC)NC(=O)OCC.C1=CC(=CC=C1CBr)C(=O)[O-]>>CCCCCCC1CCC(C(=O)O1)O[P+:11](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.CCOC(=O)N[N:10]=[C:20]([OH:21])OCC.C1=CC(=CC=C1CBr)C(=O)[O-] 10,11=10,20;20,21=21
